US06787543B2
1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (2.11 g) was added over 5 minutes to a mixture of N,0-dimethylhydroxylamine hydrochloride (1.17 g), (2S)-piperazine-1,2,4-tricarboxylic acid 4-benzyl ester 1-tert-butyl ester (3.64 g), 1-hydroxybenzotriazole (1.49 g) and N,N-diisopropylethylamine (2.1 ml) in dichloromethane (40 ml). After being stirred for 18 hours at room temperature, the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixed solvent of hexane and ethyl acetate (3:1) to give 2-(N-methoxy-N-methylcarbamoyl)piperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester (3.61 g) as a colorless powder.

reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 2.11 g | Cl.CN(CCCN=C=NCC)C
reactant | (2S)-piperazine-1,2,4-tricarboxylic acid 4-benzyl ester 1-tert-butyl ester | 3.64 g | C(C)(C)(C)OC(=O)N1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)O | C18H24N2O6
reactant | 1-hydroxybenzotriazole | 1.49 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 2.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-(N-methoxy-N-methylcarbamoyl)piperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester | 3.61 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(N(C)OC)=O | C20H29N3O6
